US04976742
1. 2-methyl-4-chloro-5-aminophenolhydrochloride (novel
5 g of 4-chloro-2-methyl-5-nitrophenol were dissolved in 200 ml of ethanol and, after addition of 0.5 g of Raney nickel, the resulting solution was catalytically hydrogenated. When the uptake of hydrogen stopped, the catalyst was separated off by filtration and the filtrate acidified with dilute hydrochloric acid. Concentration to dryness produced light beige crystals melting at 198° C. (with decomposition).

reactant | 4-chloro-2-methyl-5-nitrophenol | 5 g | ClC1=CC(=C(C=C1[N+](=O)[O-])O)C | C7H6ClNO3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | Raney nickel | 0.5 g | [Ni] | Ni
product | 2-methyl-4-chloro-5-aminophenolhydrochloride | Cl.CC1=C(C=C(C(=C1)Cl)N)O | InChI=1S/C7H8ClNO.ClH/c1-4-2-5(8)6(9)3-7(4)10;/h2-3,10H,9H2,1H3;1H
